US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-fluorophenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.5 g--see Preparation 8), 4-fluorophenethyl bromide (0.36 g--see J.A.C.S., 63, 602 (1941)), anhydrous potassium carbonate (0.5 g) and acetonitrile (15 ml) was heated under reflux for 2 hours. On cooling to room temperature, water (70 ml) was added and the mixture was extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a glass which was purified by column chromatography on silica eluting with dichloromethane containing methanol (2% up to 4%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless glass, yield, 0.056 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.5 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 4-fluorophenethyl bromide | 0.36 g | FC1=CC=C(CCBr)C=C1 | C8H8BrF
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 70 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-fluorophenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC=C(C=C1)F | C26H27FN2O
